US09260375B2
To a solution of dimethyl 2,3-dimethylmaleate (500 mg, 2.90 mmol) in carbon tetrachloride (11 mL) were added N-bromosuccinimide (803 mg, 4.51 mmol) and 2,2′-azobisisobutyronitrile (3.2 mg, 0.019 mmol) at room temperature, and the mixture was heated under reflux with stirring for 4 h. The reaction mixture was directly filtrated, and the filtrate was washed with water and brine. The residue obtained by concentrating the organic layer under reduced pressure was subjected to silica gel column chromatography (hexane-ethyl acetate 20:1→8:1) to give 191 mg of dimethyl 2-bromomethyl-3-methylmaleate (yield: 26%).

reactant | dimethyl 2,3-dimethylmaleate | 2.90 mmol, 500 mg | C/C(/C(=O)OC)=C(/C(=O)OC)\C | C8H12O4
reactant | N-bromosuccinimide | 4.51 mmol, 803 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 11 mL | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | 2,2′-azobisisobutyronitrile | 0.019 mmol, 3.2 mg | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
product | dimethyl 2-bromomethyl-3-methylmaleate | 191 mg, yield: 26% | BrC/C(/C(=O)OC)=C(/C(=O)OC)\C | C8H11BrO4
